US04482560
2.4 Grams of 6,8-dichloro-5-hydroxy-3,4-dihydrocarbostyril and 0.8 g of granular potassium hydroxide were mixed with 60 ml of methanol and concentrated under a reduced pressure to dryness. To the residue thus obtained was added 60 ml of dimethylformamide and mixed well, then 5 g of 1-chloro-2-methyl-3-(4-phenylpiperidyl)propane and heated at 70°-80° C. for 8 hours under stirring condition. The reaction mixture was concentrated under a reduced pressure to dryness, then 60 ml of 5% sodium hydrogencarbonate aqueous solution was added thereto and extracted with chloroform. The chloroform layer was washed with water and dried, then the chloroform was removed by distillation and thus obtained residue was purified by silica-gel column chromatography and recrystallized from ligroin to obtain 1.6 g (yield: 35%) of 6,8-dichloro-5-[2-methyl-3-(4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril as in the form of colorless needle-like crystals. Melting point 125°-126° C.

reactant | 6,8-dichloro-5-hydroxy-3,4-dihydrocarbostyril | ClC=1C(=C2CCC(NC2=C(C1)Cl)=O)O | C9H7Cl2NO2
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
reactant | methanol | 60 ml | CO | CH4O
reactant | 1-chloro-2-methyl-3-(4-phenylpiperidyl)propane | 5 g | ClCC(CN1CCC(CC1)C1=CC=CC=C1)C | C15H22ClN
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6,8-dichloro-5-[2-methyl-3-(4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril | 1.6 g, yield: 35% | ClC=1C(=C2CCC(NC2=C(C1)Cl)=O)OCC(CN1CCC(CC1)C1=CC=CC=C1)C | C24H28Cl2N2O2
